US04468399
Preparation of 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(2-pyridyl)methyl-4-pyrimidone.
Following the procedure of Example 1, a reaction mixture was prepared from 1.62 g. of 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine, 1.73 g. of 2-nitroamino-5-(2-pyridyl)methyl-4-pyrimidone and 20 ml. of ethanol. The reaction mixture was heated at refluxing temperature for about 21 hours. The solvents were removed in vacuo and the residue purified by high pressure liquid gradient elution chromatography (silica-ethanol/ethyl acetate/ammonium hydroxide). Fractions containing 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-amino-5-(2-pyridyl)methyl-4-pyrimidone (as determined by TLC) were combined and the solvents removed from the combined fractions by evaporation. The resulting crystalline residue was dissolved in ethanol and a slight excess of 5N aqueous hydrochloric acid added. The reaction mixture was evaporated to dryness and the resulting crystalline residue recrystallized from a mixture of methanol and ethanol to yield 1.2 g. of 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(2-pyridyl)methyl-4-pyrimidone trihydrochloride melting at 205°-207° C.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | 2-nitroamino-5-(2-pyridyl)methyl-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=NC=CC=C1 | C10H9N5O3
reactant | 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(2-pyridyl)methyl-4-pyrimidone trihydrochloride | Cl.Cl.Cl.CN(C)CC=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC1=NC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(2-pyridyl)methyl-4-pyrimidone | CN(C)CC=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC1=NC=CC=C1 | C19H24N6OS2
